US08076344B2
2-(4-isopropyl-2-methylcyclopentyl)but-3-yn-2-ol
The title compound was prepared according to the procedures described in Example 6A, substituting 1-(4-isopropyl-2-methylcyclopentyl)ethanone (prepared as described in Roger, A. et al. Bull. Soc. Chim. Fr. 1967, 3030-3037) for tetrahydro-4H-pyran-4-one used in Example 6A.

reactant | 1-(4-isopropyl-2-methylcyclopentyl)ethanone | C(C)(C)C1CC(C(C1)C(C)=O)C | C11H20O
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
product | 2-(4-isopropyl-2-methylcyclopentyl)but-3-yn-2-ol | C(C)(C)C1CC(C(C1)C(C)(C#C)O)C | C13H22O
